US07338973B2
8-benzyloxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene
Following the procedure described in Example 4, using (4-benzyloxy-phenyl)-hydrazine hydrochloride salt and Chroman-4-one (2.93 g, 16.84 mmol) as the starting material, the title compound was prepared as a brown solid.

reactant | (4-benzyloxy-phenyl)-hydrazine hydrochloride salt | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | Chroman-4-one | 16.84 mmol, 2.93 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
product | 8-benzyloxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | C(C1=CC=CC=C1)OC=1C=C2C=3COC4=C(C3NC2=CC1)C=CC=C4 | C22H17NO2
